US08476261B2
44B) Preparation of Ethyl 9′,10′-difluoro-7′-oxospiro[cyclobutane-1,3′(2′H)-[7H]pyrido[1,2,3-de][1,4]benzoxazine]-6′-carboxylate
A solution of ethyl 3-[1-(hydroxymethyl)cyclobutylamino]-2-(2,3,4,5-tetrafluorobenzoyl)acrylate (1.52 g, 4.05 mmol) in DMF (10 mL) was added to an ice-cooled suspension of 60% NaH in oil (356 mg, 8.91 mmol) in DMF (10 mL), under argon atmosphere. The reaction mixture was stirred for 4 hours and poured into ice-water. The product was extracted with AcOEt, dried over MgSO4 and the crude product was purified by column chromatography (Hexane: EtOAc 2:1→AcOEt) to yield the title compound (604 mg, 44%) as a white solid. Mp 255-256° C. 1H-NMR (400 MHz, DMSO-d6) δ 1.29 (3H, t, J=7.3 Hz), 1.91-2.07 (2H, m), 2.16-2.22 (2H, m), 2.65-2.76 (2H, m), 4.24 (2H, q, J=7.3 Hz), 4.62 (2H, s), 7.62 (1H, dd, J=10.4, 7.9 Hz), 8.80 (1H, s). ESIMS (+): 336 [M+H]+.

reactant | ethyl 3-[1-(hydroxymethyl)cyclobutylamino]-2-(2,3,4,5-tetrafluorobenzoyl)acrylate | 4.05 mmol, 1.52 g | OCC1(CCC1)NC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)F)F)=O | C17H17F4NO4
reactant | NaH | [H-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Ethyl 9′,10′-difluoro-7′-oxospiro[cyclobutane-1,3′(2′H)-[7H]pyrido[1,2,3-de][1,4]benzoxazine]-6′-carboxylate | 604 mg, 44% | FC=1C(=C2C=3N(C4(CO2)CCC4)C=C(C(C3C1)=O)C(=O)OCC)F | C17H15F2NO4
